US06395733B1
To 5-bromo-4-chloro-7H-pyrrolo[2,3-d]pyrimidine (0.31 g, 1.3 mmol) in dry THF (4 ml), cooled in a dry ice-acetone bath, was added dropwise n-butyllithium (1.3 ml, 3.3 mmol, 2.5 M In hexanes). The reaction mixture was stirred for 1 hour, then p-toluenesulphenyl cyanide (0.44 g, 2.4 mmol) suspended in dry THF (7 ml) was added. The solution was stirred for 18 hours at ambient temperature then diluted with aqueous ammonium chloride. The phases were separated and the organic phase washed with water and aqueous NaCl. The organic phase was dried over sodium sulfate, and concentrated in vacuo. The resulting residue was purified by flash chromatography on silica gel (15 g, 40 mm mesh) using 3% methanol/methylene chloride to afford 4-chloro5-cyano-7H-pyrrolo[2,3-d]pyrimidine as a yellow solid (52 mg).

reactant | 5-bromo-4-chloro-7H-pyrrolo[2,3-d]pyrimidine | 1.3 mmol, 0.31 g | BrC1=CNC=2N=CN=C(C21)Cl | C6H3BrClN3
reactant | n-butyllithium | 3.3 mmol, 2.5 M, 1.3 ml | C(CCC)[Li]
reactant | p-toluenesulphenyl cyanide | 2.4 mmol, 0.44 g | C1(=CC=C(C=C1)SC#N)C | C8H7NS
solvent | THF | 4 ml | C1CCOC1 | C4H8O
solvent | THF | 7 ml | C1CCOC1 | C4H8O
solvent | ammonium chloride | [Cl-].[NH4+]
product | 4-chloro5-cyano-7H-pyrrolo[2,3-d]pyrimidine | 52 mg | ClC=1C2=C(N=CN1)NC=C2C#N | C7H3ClN4
